US08633215B2
2-[(Dimethylamino)methyl]furo[2,3-c]isoquinolin-5(4H)-one hydrochloride
Furo[2,3-c]isoquinolin-5(4H)-one (55 mg, 0.27 mmol) was dissolved in a mixture of dry dimethylformamide (1 ml) and dry acetonitrile (2 ml) and treated with N,N-dimethyl(methylene)ammonium chloride (1 mmol) prepared according to known procedure (Kinast G. et al. Angew. Chem. Int. Ed. Engl. 1976, 15(4), 239-240; Bohme H. et al. Chem. Ber. 1960, 93, 1305). The reaction mixture was refluxed overnight, and the resulting precipitate was filtered and washed with dry diethyl ether to give the title compound. Yield: 65%.

reactant | Furo[2,3-c]isoquinolin-5(4H)-one | 0.27 mmol, 55 mg | C1=COC=2NC(C=3C=CC=CC3C21)=O | C11H7NO2
reactant | N,N-dimethyl(methylene)ammonium chloride | 1 mmol | [Cl-].C[N+](C)=C
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-[(Dimethylamino)methyl]furo[2,3-c]isoquinolin-5(4H)-one hydrochloride | Yield: 65% | Cl.CN(C)CC1=CC2=C(NC(C=3C=CC=CC23)=O)O1 | InChI=1S/C14H14N2O2.ClH/c1-16(2)8-9-7-12-10-5-3-4-6-11(10)13(17)15-14(12)18-9;/h3-7H,8H2,1-2H3,(H,15,17);1H
